US07531546B2
D. Preparation of 7-(2,2-Dimethyl-propyl)-6-(1,3-dioxo-2,8-diaza-spiro[4.5]dec-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
To a solution of 2-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-1,3-dioxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (1.5 g, 3.1 mmol) in dichloromethane (20 ml), TFA (5 ml) is added at 0° C. The reaction mixture is stirred at room temperature for 2 h. After removal of the solvent, saturated sodium bicarbonate is added to the residue and the mixture is extracted with dichloromethane. The combined extracts are washed with H2O, brine, dried over magnesium sulfate and concentrated under vacuum to give desired product, 7-(2,2-dimethyl-propyl)-6-(1,3-dioxo-2,8-diaza-spiro[4.5]dec-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile.

reactant | 2-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-1,3-dioxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 3.1 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)CC2=CC3=C(N=C(N=C3)C#N)N2CC(C)(C)C)=O)CC1 | C26H34N6O4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-(2,2-dimethyl-propyl)-6-(1,3-dioxo-2,8-diaza-spiro[4.5]dec-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C(C1(CC2=O)CCNCC1)=O)(C)C | C21H26N6O2
